US06180635B2
3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(2-pyridinyl)thio]thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
n-Butyllithium (2.0M solution in hexanes, 0.32 ml) was added dropwise to a solution of diisopropylamine (0.093 ml) in anhydrous tetrahydrofuran (5 ml) at 0° C., under nitrogen. The solution was stirred for 5 minutes then cooled to −78° C. and a solution of 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione (0.20 g) in anhydrous tetrahydrofuran (5 ml) was added. After 15 minutes, a solution of 2,2′-dipyridyl disulfide (0.145 g) in anhydrous tetrahydrofuran (2 ml) was added The mixture was stirred for a further 1 hour at −78° C. then allowed to warm to room temperature. The reaction mixture was poured onto saturated aqueous sodium bicarbonate solution (30 ml) and then extracted with ether (2×30 ml). The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was is purified by column chromatography over silica, eluting with acetone:hexane (1:2) and was then recrystallised from ethyl acetate/hexane to give the title compound (0.172 g).

reactant | n-Butyllithium | 2.0M, 0.32 ml | C(CCC)[Li]
reactant | diisopropylamine | 0.093 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.20 g | CN1C(N(C2=C(C1=O)C=C(S2)CC2=CC=CC1=CC=CC=C21)CC(C)C)=O | C22H22N2O2S
reactant | 2,2′-dipyridyl disulfide | 0.145 g | C1=CC=NC(=C1)SSC2=CC=CC=N2 | C10H8N2S2
reactant | sodium bicarbonate | 30 ml | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-Methyl-1-(2-methylpropyl)-6-(1-naphthalenylmethyl)-5-[(2-pyridinyl)thio]thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 0.172 g | CN1C(N(C2=C(C1=O)C(=C(S2)CC2=CC=CC1=CC=CC=C21)SC2=NC=CC=C2)CC(C)C)=O | C27H25N3O2S2
